US07368578B2
Ethyl (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetate (6.19 g) was dissolved in 0.25N potassium hydroxide mixed solution (potassium hydroxide 7.01 g/methanol 125 mL/tetrahydrofuran 354 mL/distilled water 21 mL), and the mixture was stirred overnight at room temperature. The reaction mixture was acidified by adding hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethanol-diisopropyl ether to give (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetic acid as a white solid (5.43 g, yield 95%). melting point: 162-164° C.

reactant | Ethyl (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetate | 6.19 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CC(=O)OCC)OC)C | C20H21NO6
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | 0.25N, 125 mL, 7.01 g | [OH-].[K+]
product | (4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxyphenyl)acetic acid | 5.43 g, yield 95% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CC(=O)O)OC)C | C18H17NO6
